US05039805
173 mg of N-[4-(benzyloxy)-3-[p-[N-(t-butoxycarbonyl)amidino]benzamido]benzoyl]-β-alanine in 4 ml of formic acid are stirred at 20° C. for 4 hours. The reaction mixture is evaporated in a vacuum, the residue is suspended in water and adjusted to pH 8-9 with ammonia. After stirring for a short time the mixture is suction filtered, the filter residue is washed with water and dried at 50° C. in a vacuum. There are obtained 136 mg of N-[3-(p-amidinobenzamido)-4-(benzyloxy)benzoyl]-β-alanine, m.p. >250° C., MS: 461 (41, M+H), as a hydrate (1:1).

reactant | N-[4-(benzyloxy)-3-[p-[N-(t-butoxycarbonyl)amidino]benzamido]benzoyl]-β-alanine | 173 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)NCCC(=O)O)C=C1)NC(C1=CC=C(C=C1)C(NC(=O)OC(C)(C)C)=N)=O | C30H32N4O7
solvent | formic acid | 4 ml | C(=O)O | CH2O2
product | N-[3-(p-amidinobenzamido)-4-(benzyloxy)benzoyl]-β-alanine | 136 mg | C(N)(=N)C1=CC=C(C(=O)NC=2C=C(C(=O)NCCC(=O)O)C=CC2OCC2=CC=CC=C2)C=C1 | C25H24N4O5
